US07834039B2
A solution of benzyl 2-(3-(3-chloro-4-isopropoxypheny)-1,2,4-oxadiazol-5-yl)-3-methy-5,6-dihydroimidazo[1,2-a] pyrazine-7(8H)-carboxylate (160 mg, 0.315 mmol) in 33% HBr solution in acetic acid (2.00 mL) containing triisopropylsilane (0.065 mL, 0.315 mmol)) was stirred at room temperature under nitrogen for 10 minutes. Ether (20 ml) was added to precipitate the product. The resulting solid was filtered off, treated with saturated bicarbonate solution (10 ml) and extracted with methylene chloride (2×10 ml). The combined organic layers were dried over sodium sulfate, filtered, concentrated to solids and dried under reduced pressure to yield 2-[3-(3-Chloro -4-isopropoxy-phenyl)-[1,2,4] oxadiazol-5-yl]-3-methyl-5,6,7,8-tetrahydro-imidazo [1,2-a] pyrazine (113 mg, 96%) as an off-white solid. LCMS (Table 1, Method a) Rl=3.14 min, m/z 374.24 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ 8.01 (d, 1H), 7.97 (d,d, 1H), 7.36 (d, 1H), 4.81 (m, 1H), 4.66 (s, 2H), 3.90 (s, 2H), 3.87 (t, 2H), 3.12 (t, 2H), 2.60 (s, 3H), 1.34 (d, 6H).

reactant | benzyl 2-(3-(3-chloro-4-isopropoxypheny)-1,2,4-oxadiazol-5-yl)-3-methy-5,6-dihydroimidazo[1,2-a] pyrazine-7(8H)-carboxylate | 0.315 mmol, 160 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C=1N=C2N(CCN(C2)C(=O)OCC2=CC=CC=C2)C1C | C26H26ClN5O4
reactant | triisopropylsilane | 0.315 mmol, 0.065 mL | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
reactant | Ether | 20 ml | CCOCC | C4H10O
solvent | HBr | Br | BrH
solvent | acetic acid | 2.00 mL | C(C)(=O)O | C2H4O2
product | 2-[3-(3-Chloro -4-isopropoxy-phenyl)-[1,2,4] oxadiazol-5-yl]-3-methyl-5,6,7,8-tetrahydro-imidazo [1,2-a] pyrazine | 113 mg, 96% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C=1N=C2N(CCNC2)C1C | C18H20ClN5O2
